US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl)benzoyl]morpholine
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]morpholine (102 mg, 0.2037 mmol) was dissolved in a mixed solvent of acetonitrile (15 ml) and water (5 ml), then CAN (279 mg, 0.5091 mmol) was added thereto at room temperature and the mixture was stirred for 3 hours. The reaction solution was poured into water, neutralized with 1N aqueous solution of sodium hydroxide and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (methylene chloride:methanol=95:5) to give the title compound (60 mg, 0.1298 mmol, 63%).

reactant | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]morpholine | 0.2037 mmol, 102 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C28H32N2O6
reactant | CAN | 0.5091 mmol, 279 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl)benzoyl]morpholine | 0.1298 mmol, 60 mg, 63% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)C1=CC=NC=C1)C)=O | C26H26N2O6
